US06376499B1
Step B: 6-Azidomethyl-2-chloro-3-cyanopyridine
A mixture of 2-chloro-6-chloromethyl-3-cyanopyridine (600 mg, 3.21 mmol) and sodium azide (229 mg, 3.53 mmol) in DMF (12 mL) were stirred at 50° C. for 30 min. The mixture was cooled and partitioned between ethyl acetate and water. The organic layer was washed with water (2 times) and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography on silica (chloroform) to give the title compound as an oil:

reactant | 2-chloro-6-chloromethyl-3-cyanopyridine | 3.21 mmol, 600 mg | ClC1=NC(=CC=C1C#N)CCl | C7H4Cl2N2
reactant | sodium azide | 3.53 mmol, 229 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 6-Azidomethyl-2-chloro-3-cyanopyridine | N(=[N+]=[N-])CC1=CC=C(C(=N1)Cl)C#N | C7H4ClN5
